US05650428
The procedure described in Example 180 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-3-cyclohexylpropanoic acid (200 mg) and methyl 4-aminophenylpropionate (103.64 mg) were condensed in dichloromethane (5 ml) in the presence of N,N'-dicyclohexylcarbodiimide (143.18 mg). The reaction mixture was filtered, and the filtrate was concentrated. The resulting crude product was purified by column chromatography (silica gel 20 g, hexane/ethyl acetate=3/1) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-3-cyclohexyl-N-(4-(2-methoxycarbonylethyl)phenyl)propanamide (165.2 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-cyclohexylpropanoic acid | 200 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CC1CCCCC1 | C15H20ClNO4S
reactant | methyl 4-aminophenylpropionate | 103.64 mg | NC1=CC=C(C=C1)C(C(=O)OC)C | C10H13NO2
reactant | N,N'-dicyclohexylcarbodiimide | 143.18 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (RS)-2-(4-chlorobenzenesulfonylamino)-3-cyclohexyl-N-(4-(2-methoxycarbonylethyl)phenyl)propanamide | 165.2 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CCC(=O)OC)CC1CCCCC1 | C25H31ClN2O5S
